US07612114B2
6-{5-Fluoro-2-[3-fluoro-4-(2-piperidin-1-ylethoxy)phenylamino]phenyl}naphthalen-2-ol
Synthesized from 4-fluoro-2-(6-methoxynaphthalen-2-yl)phenylamine and 1-[2-(4-bromo-2-fluorophenoxy)ethyl]piperidine according to an analogous synthetic method to Example 116, [4-fluoro-2-(6-methoxynaphthalen-2-yl)phenyl][3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl]amine (404 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (324 mg).

reactant | 4-fluoro-2-(6-methoxynaphthalen-2-yl)phenylamine | FC1=CC(=C(C=C1)N)C1=CC2=CC=C(C=C2C=C1)OC | C17H14FNO
reactant | 1-[2-(4-bromo-2-fluorophenoxy)ethyl]piperidine | BrC1=CC(=C(OCCN2CCCCC2)C=C1)F | C13H17BrFNO
reactant | [4-fluoro-2-(6-methoxynaphthalen-2-yl)phenyl][3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl]amine | 404 mg | FC1=CC(=C(C=C1)NC1=CC(=C(C=C1)OCCN1CCCCC1)F)C1=CC2=CC=C(C=C2C=C1)OC | C30H30F2N2O2
product | 6-{5-Fluoro-2-[3-fluoro-4-(2-piperidin-1-ylethoxy)phenylamino]phenyl}naphthalen-2-ol | 324 mg | FC=1C=CC(=C(C1)C=1C=C2C=CC(=CC2=CC1)O)NC1=CC(=C(C=C1)OCCN1CCCCC1)F | C29H28F2N2O2
